US05223498
A mixture of 1-(n-butyl)-3-(5-chloro-2-morpholinophenyl)thiourea (2.6 g), methyl iodide (1.4 g) and acetone (20 ml) was heated under reflux for 3 hours to give 2-methyl-1-(5-chloro-2-morpholinophenyl)-3-(n-butyl)-2-thiopseudourea hydroiodide (m.p. 130°-132° C.).

reactant | 1-(n-butyl)-3-(5-chloro-2-morpholinophenyl)thiourea | 2.6 g | C(CCC)NC(=S)NC1=C(C=CC(=C1)Cl)N1CCOCC1 | C15H22ClN3OS
reactant | methyl iodide | 1.4 g | CI | CH3I
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2-methyl-1-(5-chloro-2-morpholinophenyl)-3-(n-butyl)-2-thiopseudourea hydroiodide | I.CSC(NC1=C(C=CC(=C1)Cl)N1CCOCC1)=NCCCC | InChI=1S/C16H24ClN3OS.HI/c1-3-4-7-18-16(22-2)19-14-12-13(17)5-6-15(14)20-8-10-21-11-9-20;/h5-6,12H,3-4,7-11H2,1-2H3,(H,18,19);1H
